US08110585B2
(2E)-3-(7-chloro-2-methyl-2H-indazol-4-yl)acrylonitrile
To a solution of diethyl cyanomethylphosphonate (1.62 mL, 10.02 mmol) in tetrahydrofuran (70 mL) was added 60% sodium hydride (370 mg, 9.25 mmol) under ice-cooling, and the mixture was stirred at 0° C. for 30 min. To the mixture was added a solution of 7-chloro-2-methyl-2H-indazole-4-carbaldehyde (1.50 g, 7.71 mmol) in tetrahydrofuran (30 mL) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction solution was diluted with saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=15/85→40/60) to give the title compound (1.45 g, yield 86%).

reactant | diethyl cyanomethylphosphonate | 10.02 mmol, 1.62 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 9.25 mmol, 370 mg | [H-].[Na+]
reactant | 7-chloro-2-methyl-2H-indazole-4-carbaldehyde | 7.71 mmol, 1.50 g | ClC1=CC=C(C2=CN(N=C12)C)C=O | C9H7ClN2O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | (2E)-3-(7-chloro-2-methyl-2H-indazol-4-yl)acrylonitrile | 1.45 g, yield 86% | ClC1=CC=C(C2=CN(N=C12)C)/C=C/C#N | C11H8ClN3
